US06596772B1
Using procedure as in Example 10, a reaction of methyl 2,6-dihydroxy-4-methylbenzoate (50 mg, 0.274 mmol), NaH (24 mg, 2.2 equiv.) and 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (159 mg, 2 equiv.) afforded 4-methyl-2,6-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester. 1HNMR (360 MHz, DMSO-d6) δ 8.80 (d, J=2.2 Hz, 2H), 8.32 (dd, J=2.2 & 9.0 Hz, 2H), 7.48 (d, J=2.7 Hz, 2H), 7.44 (s, 2H), 3.50 (s, 3H, OCH3), 1.23 (s, 3H, CH3). MS-APCI (negative mode) m/z 686.6 [M+−2].

reactant | methyl 2,6-dihydroxy-4-methylbenzoate | 0.274 mmol, 50 mg | OC1=C(C(=O)OC)C(=CC(=C1)C)O | C9H10O4
reactant | NaH | 24 mg, 2.2 equiv. | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 159 mg, 2 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
product | 4-methyl-2,6-bis-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])=O | C23H14F6N2O12S2
